US06225320B1
Prepared from bromine (0.21 ml, 4 mmol) and a solution of 3-methoxy-6-trifluoromethyl-2-trimethylstannylpyridine (0.7 g, 2.0 mmol) in dichloromethane (10 ml) according to the method of Description 42 to afford 4-bromo-3-methoxy-6-trifluoromethylpyridine as a yellow solid.

reactant | bromine | 4 mmol, 0.21 ml | BrBr | Br2
reactant | 3-methoxy-6-trifluoromethyl-2-trimethylstannylpyridine | 2.0 mmol, 0.7 g | COC=1C(=NC(=CC1)C(F)(F)F)[Sn](C)(C)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-bromo-3-methoxy-6-trifluoromethylpyridine | BrC1=C(C=NC(=C1)C(F)(F)F)OC | C7H5BrF3NO
